US07071175B1
(l) 2-(2-Amino-pyridin4-ylmethyl)-3-mercapto-propionic acid
2-Acetylsulfanylmethyl-3-(2-amino-pyridin4-yl)-propionic acid ethyl ester (52 mg, 0.13 mmol) was dissolved in conc. HCl (2 mL) under argon. The solution was heated to reflux for 1 h. Concentration under reduced pressure gave the title compound as the hydrochloride salt (32 mg, 100%).

reactant | 2-Acetylsulfanylmethyl-3-(2-amino-pyridin4-yl)-propionic acid ethyl ester | 0.13 mmol, 52 mg | C(C)OC(C(CC1=CC(=NC=C1)N)CSC(C)=O)=O | C13H18N2O3S
solvent | HCl | 2 mL | Cl | ClH
product | 2-(2-Amino-pyridin4-ylmethyl)-3-mercapto-propionic acid | NC1=NC=CC(=C1)CC(C(=O)O)CS | C9H12N2O2S
